US07994171B2
Methyl 5-methyoxazole-4-carboxylate.
A stirred mixture of methyl isocyanoacetate (7.0 g, 70 mmol, 1 eq) and DBU (10.06 g, 70 mmol, 1 eq) in THF was cooled to 0° C., and a solution of acetic anhydride (7.14 g, 70 mmol, 1 eq) in THF was added dropwise over 15 min. The reaction mixture was stirred for 12 h at room temperature. The solvent was removed by Rota-vapor and water was added. The mixture was extracted with EtOAc. The crude product was purified by silica gel (230-400) column chromatography using 30% EtOAc/hexane. Yield: 6.8 g (98%). 1H NMR (400 MHz, CDCl3): δ 2.54 (s, 3H), 3.80 (s, 3H), 7.69 (s, 1H).

reactant | methyl isocyanoacetate | 70 mmol, 7.0 g, 1 eq | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | DBU | 70 mmol, 10.06 g, 1 eq | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetic anhydride | 70 mmol, 7.14 g, 1 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 5-methyoxazole-4-carboxylate | CC1=C(N=CO1)C(=O)OC | C6H7NO3
